US07723538B2
4-[3-(3,4-Dichloro-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid, MS (ISP): m/e=523.1 (M−H), was prepared in analogy to example 31, steps A to D. Step C was performed using 3,4-dichloro-benzenesulfonyl chloride and yielded 4-[3-(3,4-dichloro-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(3,4-Dichloro-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C(C1OC)OC | C22H18Cl2N2O7S
reactant | 3,4-dichloro-benzenesulfonyl chloride | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 4-[3-(3,4-dichloro-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C(=C1)OC)OC)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C24H22Cl2N2O7S
